.title KiCad schematic
.include "F5models.lib"
.include "script-icout.txt"
R2 in 0 47.5k
R1 Net-_Q1-Pad2_ in 1k
R5 +32 Net-_P1-Pad1_ 1k
R3 Net-_P3-Pad1_ 0 10
R4 0 Net-_P3-Pad3_ 10
R6 Net-_P2-Pad1_ -32 1k
R7 out Net-_P3-Pad1_ 220
R8 out Net-_P3-Pad1_ 220
R9 out Net-_P3-Pad3_ 220
R10 out Net-_P3-Pad3_ 220
R11 Net-_R11-Pad1_ Net-_P1-Pad1_ 2.2k
R13 Net-_Q3-Pad2_ Net-_P1-Pad1_ 47.5
R15 Net-_Q5-Pad2_ Net-_P2-Pad1_ 47.5
R12 Net-_R12-Pad1_ Net-_P2-Pad1_ 2.2k
R17 +32 Net-_D3a1-Pad1_ 1
R21 Net-_D1a1-Pad2_ -32 1
R18 +32 Net-_D3a1-Pad1_ 1
R22 Net-_D1a1-Pad2_ -32 1
R16 Net-_Q6-Pad2_ Net-_P2-Pad1_ 47.5
R14 Net-_Q4-Pad2_ Net-_P1-Pad1_ 47.5
R19 +32 Net-_D4a1-Pad1_ 1
R23 Net-_D2a1-Pad2_ -32 1
R20 +32 Net-_D4a1-Pad1_ 1
R24 Net-_D2a1-Pad2_ -32 1
Ra2 Net-_Ra1-Pad2_ 0 4
D3a1 +32 Net-_D3a1-Pad1_ DMOD
D1a1 Net-_D1a1-Pad2_ -32 DMOD
D3b1 +32 Net-_D3a1-Pad1_ DMOD
D1b1 Net-_D1a1-Pad2_ -32 DMOD
D4a1 +32 Net-_D4a1-Pad1_ DMOD
D2a1 Net-_D2a1-Pad2_ -32 DMOD
D4b1 +32 Net-_D4a1-Pad1_ DMOD
D2b1 Net-_D2a1-Pad2_ -32 DMOD
XP3 Net-_P3-Pad1_ 0 Net-_P3-Pad3_ RPOT value=200 ratio={rp3}
XP1 Net-_P1-Pad1_ +32 +32 RPOT value=5k ratio={rp1}
XP2 Net-_P2-Pad1_ -32 -32 RPOT value=5k ratio={rp2}
V3 in 0 dc 0 ac 1 sin(0 2 1k 5m)
JQ1 Net-_P1-Pad1_ Net-_Q1-Pad2_ Net-_P3-Pad1_ 2SK170
JQ2 Net-_P2-Pad1_ Net-_Q1-Pad2_ Net-_P3-Pad3_ 2SJ74
MQ5 out Net-_Q5-Pad2_ Net-_D1a1-Pad2_ Q5tj Q5tc IRFP240 thermal
MQ4 out Net-_Q4-Pad2_ Net-_D4a1-Pad1_ Q4tj Q4tc IRFP9240 thermal
MQ6 out Net-_Q6-Pad2_ Net-_D2a1-Pad2_ Q6tj Q6tc IRFP240 thermal
Rj1 Q3tj 0 1G
Rj2 Q4tj 0 1G
Rj3 Q5tj 0 1G
Rj4 Q6tj 0 1G
Rc2 Q3hs Net-_Rc2-Pad2_ {hs}
Rc4 Q4hs Net-_Rc2-Pad2_ {hs}
Rc6 Q5hs Net-_Rc2-Pad2_ {hs}
Rc8 Q6hs Net-_Rc2-Pad2_ {hs}
Rc1 Q3tc Q3hs {chs}
Rc3 Q4tc Q4hs {chs}
Rc5 Q5tc Q5hs {chs}
Rc7 Q6tc Q6hs {chs}
Vt1 Net-_Rc2-Pad2_ 0 {envtemp}
Cc1 Q3hs 0 {hscc}
Cc3 Q5hs 0 {hscc}
Cc4 Q6hs 0 {hscc}
V1 +32 0 dc 32 ; pulse(0 32 0.4m 2m 2m 100 200)
V2 -32 0 dc -32 ; pulse(0 -32 0.4m 2m 2m 100 200)
XTH2 Net-_D1a1-Pad2_ Q5hs Net-_R12-Pad1_ th R25=4.7k
XTH1 Net-_D3a1-Pad1_ Q3hs Net-_R11-Pad1_ th R25=4.7k
MQ3 out Net-_Q3-Pad2_ Net-_D3a1-Pad1_ Q3tj Q3tc IRFP9240 thermal
Vs1 Net-_S1-Pad3_ 0 dc 0 pulse(0 5 6 1m 1m 20 20)
XS1 Net-_Ra1-Pad2_ 0 Net-_S1-Pad3_ 0 genrelay
Cc2 Q4hs 0 {hscc}
Ra1 out Net-_Ra1-Pad2_ 4
.tran 20u 5
.param envtemp=40
.param chs=1
.param hs=1.2
.param hscc=1
.param rp2=0.21
.param rp1=0.36
.param rp3=0.505
.end
